US09169271B2
2-(Allyloxy)-N-methoxy-N-methylacetamide
Scheme 1, steps A and B: Bromoacetyl bromide (1.06 equiv.) is added to a solution of N,O-dimethylhydroxylamine hydrochloride (1.0 equiv.) (Volumes are in mL/g of this compound) in a stirring mixture of water (4 mL/g), toluene (4 mL/g), and K2CO3 (1.15 equiv.) at 0° C. After warming to room temperature over 1 hour, the layers are separated and the aqueous layer is extracted with toluene (2 mL/g). The combined organic layers are concentrated to give the intermediate 2-bromo-N-methoxy-N-methyl-acetamide containing about 20% toluene. 2-Bromo-N-methoxy-N-methyl-acetamide is added to a mixture of allyl alcohol (6.3 equiv) and K2CO3 (2 equiv.) over 3 hours at 30° C. After 2 hours at 30° C., toluene (4 mL/g) is added, the mixture is cooled to 0° C., and filtered. The filter cake is rinsed with cold (0° C.) toluene (2.7 mL/g) and the combined filtrate is washed with a 3 weight % solution of KHSO4 in water (0.6 mL/g). The toluene solution is concentrated while additional toluene (11 mL/g) is added to remove water and allyl alcohol. The concentrated toluene solution is washed with water (0.5 g/g), further concentrated to remove most of the toluene, and then distilled to give the title compound. LC-MS (m/z): 160 (M+H).

reactant | 2-Bromo-N-methoxy-N-methyl-acetamide | BrCC(=O)N(C)OC | C4H8BrNO2
reactant | allyl alcohol | 6.3 equiv | C(C=C)O | C3H6O
reactant | K2CO3 | 2 equiv. | C(=O)([O-])[O-].[K+].[K+]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 2-(Allyloxy)-N-methoxy-N-methylacetamide | C(C=C)OCC(=O)N(C)OC | C7H13NO3
